US06878725B2
1-Boc-4-(2-Cyanopyridin-4-yloxy)piperidine.
Prepared from 1-Boc-4-hydroxypiperidine and 4-chloro-2-cyanopyridine using methods substantially equivalent to those described for the synthesis of 1-Boc-4-(pyridin-2-yloxy)piperidine. The product was purified by chromatography over silica gel, eluting with 25% ethyl acetate in hexanes.

reactant | 1-Boc-4-hydroxypiperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | 4-chloro-2-cyanopyridine | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | 1-Boc-4-(pyridin-2-yloxy)piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=NC=CC=C1 | C15H22N2O3
product | 1-Boc-4-(2-Cyanopyridin-4-yloxy)piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=NC=C1)C#N | C16H21N3O3
